### PR TITLE
[Merged by Bors] - feat: supporting API for Cartan matrix realisations

### PR DESCRIPTION
**Pull request by ocfnash**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean [hunk 1]
```diff
@@ -588,6 +612,38 @@ theorem fromBlocks₂₂ [DecidableEq n] (A : Matrix m m R')
...
+    letI yAy := star y ⬝ᵥ A *ᵥ y
+    (star xAy) * xAy ≤ xAa * yAy := by
+  rcases eq_or_ne y 0 with rfl | hy; · simp
+  have := hA.posSemidef.dotProduct_mulVec_nonneg
+    ((star y ⬝ᵥ A *ᵥ y) • x - star (star x ⬝ᵥ A *ᵥ y) • y)
+  refine le_of_mul_le_mul_left (sub_nonneg.mp (this.trans_eq ?_)) (hA.dotProduct_mulVec_pos hy)
+  simp [hA.isHermitian.star_dotProduct_mulVec_comm, mulVec_sub, mulVec_smul]
+  ring
+
+lemma finite_setOf_dotProduct_mulVec_le {A : Matrix n n ℤ} (hA : A.PosDef) (r : ℤ) :
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/PosDef.lean]:
```suggestion
lemma finite_setOfPred_dotProduct_mulVec_le {A : Matrix n n ℤ} (hA : A.PosDef) (r : ℤ) :
```

File: Mathlib/Data/Matrix/Mul.lean [hunk 2]
```diff
@@ -863,6 +863,11 @@ theorem single_vecMul_diagonal [Fintype n] [DecidableEq n] [NonUnitalNonAssocSem
   rw [vecMul_diagonal]
   exact Pi.apply_single (fun i x => x * v i) (fun i => zero_mul _) j x i
 
+theorem col_mul_eq_mulVec_col [NonUnitalNonAssocSemiring R] [Fintype m]
+    {M : Matrix l m R} {N : Matrix m n R} {i : n} :
+    (M * N).col i = M *ᵥ N.col i :=
+  rfl
```
Comment (themathqueen) [inline Mathlib/Data/Matrix/Mul.lean:869]: maybe also add the `row` version of this?

File: Mathlib/LinearAlgebra/Matrix/Cartan/Basic.lean [hunk 3]
```diff
@@ -466,4 +467,53 @@ structure Matrix.IsFiniteCartan {ι : Type*} [Fintype ι] [DecidableEq ι]
...
+  nlinarith
+
+protected lemma isUnit_map (k : Type*) [Field k] [CharZero k] :
+    IsUnit <| M.map (Int.cast : ℤ → k) := by
+  suffices IsUnit <| (Int.castRingHom k).mapMatrix M by simpa
+  rw [Matrix.isUnit_iff_isUnit_det, ← RingHom.map_det]
+  simpa using hM.det_pos.ne'
+
+protected lemma transpose :
+    Mᵀ.IsFiniteCartan := by
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Cartan/Basic.lean:489]: maybe give a `transpose_iff` simp lemma?

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean [hunk 4]
```diff
@@ -501,6 +502,29 @@ lemma trace_pos [Nontrivial R] [IsOrderedCancelAddMonoid R] [Nonempty n] {A : Ma
     (hA : A.PosDef) : 0 < A.trace :=
   Finset.sum_pos (fun _ _ ↦ hA.diag_pos) Finset.univ_nonempty
 
+theorem det_pos [DecidableEq n] [Nontrivial R'] [IsOrderedRing R'] [PosMulReflectLT R']
+    {A : Matrix n n R'} (hA : A.PosDef) :
+    0 < A.det := by
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/PosDef.lean:507]: I get this is a slightly big ask, but can you also move and generalize `PosSemidef.det_nonneg`?
Or do it in a followup PR? It would look weird if the semidefinite version stays in the Analysis folder.

Comment (ocfnash) [reply Mathlib/LinearAlgebra/Matrix/PosDef.lean:507]: I agree we should do this but it's surprisingly just a bit more non-trivial to prove the semidefinite version. 

Claude is well able to produce a revolting (long) proof but I don't have the time to turn it into Mathlib code. However it does allow me to assert:
```lean
theorem det_nonneg [DecidableEq n]
    [CommRing R'] [PartialOrder R'] [StarRing R']
    [Nontrivial R'] [IsOrderedRing R'] [PosMulReflectLE R']
    {A : Matrix n n R'} (hA : A.PosSemidef) :
    0 ≤ A.det := by
```

I'll consider options when I have time for my personal work this evening and will probably propose we capture this as a TODO next to the lemma in the analysis folder.

Comment (themathqueen) [reply Mathlib/LinearAlgebra/Matrix/PosDef.lean:507]: Not sure how the proof you generated goes, but an alternative proof is by first generalizing [Matrix.PosSemidef.dotProduct_mulVec_zero_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Matrix/Order.html#Matrix.PosSemidef.dotProduct_mulVec_zero_iff), then proving it via that.

Uses an extra hypothesis though... `NoZeroDivisors R`.


<details>
  <summary>Here is the generalization (initial long proof by Claude, golfed by me):</summary>

```lean
import Mathlib

open Matrix

variable {R n : Type*} [CommRing R] [PartialOrder R] [StarRing R]
  [StarOrderedRing R] [NoZeroDivisors R] [Fintype n]

lemma Matrix.IsHermitian.star_dotProduct_mulVec_comm {R} [NonUnitalRing R] [StarRing R]
    {A : Matrix n n R} (hA : A.IsHermitian) (x y : n → R) :
    star (star x ⬝ᵥ A *ᵥ y) = star y ⬝ᵥ A *ᵥ x := by
  rw [star_dotProduct, star_star, star_mulVec, hA.eq, ← dotProduct_mulVec]

-- from `Mathlib.Analysis.Matrix.Order`:
theorem dotProduct_mulVec_zero_iff {A : Matrix n n R} (hA : A.PosSemidef) {x : n → R} :
    star x ⬝ᵥ A *ᵥ x = 0 ↔ A *ᵥ x = 0 := by
  refine ⟨fun hx ↦ ?_, fun hx ↦ by simp [hx]⟩
  suffices h : ∀ y, star x ⬝ᵥ A *ᵥ y = 0 by
    refine dotProduct_star_self_eq_zero.mp ?_
    simpa [dotProduct_mulVec, star_mulVec, hA.isHermitian.eq] using h (A *ᵥ x)
  intro y
  set z := star x ⬝ᵥ A *ᵥ y with hz
  suffices h : star z * z ≤ 0 by simpa using le_antisymm h (by simp)
  calc star z * z ≤ 2 • (star z * z) + star z * z * (star y ⬝ᵥ A *ᵥ y) := by
        rw [two_smul, add_assoc]
        apply le_add_of_nonneg_right (add_nonneg (by simp) _)
        exact mul_nonneg (by simp) (hA.dotProduct_mulVec_nonneg y)
    _ ≤ 0 := neg_nonneg.mp <| le_of_le_of_eq
        (hA.dotProduct_mulVec_nonneg (-(1 + star y ⬝ᵥ A *ᵥ y) • x + star z • y)) <| by
      simp [mulVec_add, mulVec_smul, hx, ← hz, ← hA.isHermitian.star_dotProduct_mulVec_comm x y,
        hA.isHermitian.star_dotProduct_mulVec_comm y y]
      ring
```

</details>

After this, you will want to show `Function.Injective A.mulVec -> A.PosDef` for `A.PosSemidef` using `dotProduct_mulVec_zero_iff`. Then you can use that and `PosDef.det_pos` to show `PosSemidef.det_nonneg`.

File: Mathlib/Data/Matrix/Mul.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/Data/Matrix/Mul.lean:869]: Good point; done.

File: Mathlib/LinearAlgebra/Matrix/Cartan/Basic.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/Matrix/Cartan/Basic.lean:489]: Done!

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean (hunk 4 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/Matrix/PosDef.lean:507]: I thought about this some more and propose we address this with a `TODO`

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean (hunk 1 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/Matrix/PosDef.lean]: Done.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

**Comment by grunweg** [comment]
@ocfnash (Perhaps it's understood, but let me say it again because good things deserve repeating:) It's great to see Lie algebras develop further in mathlib, thanks for pushing this further!

With my maintainer hat, I see that this PR renames a file, and see no module deprecation PR made yet. Do you mind making one? I'll be happy to review.

**Comment by ocfnash** [comment]
> Do you mind making one? I'll be happy to review.

Yes of course, sorry I didn't do this immediately. Done now in https://github.com/leanprover-community/mathlib4/pull/43605
